US09334267B2
7-Methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate
Heat a mixture 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate (28.6 g, 84 mmol), dimethylformamide (74 mL) and glacial acetic acid (9.61 mL, 169 mmol) to 45° C. and then add 6.15% aqueous NaOCl (bleach, 612 g, 506 mmol) dropwise over 2 h. Heat at 45-50° C. for 2 h, cool to RT, collect the solids by filtration and wash with water (300 mL). Add DCM (200 mL) to the solids, cool the suspension in an ice-water bath and treat with a solution of 2.0 M N-methylamine in THF (126 mL, 253 mmol). Allow the mixture to slowly warm to RT and stir for 2 h. Remove the solvent under reduced pressure, treat with methanol (MeOH) (50 mL) and stir at RT for 30 min. Collect the solid by filtration and wash with MeOH. Treat the solid with EtOAc (30 mL) and stir at RT for 30 min. Collect the solid by filtration and wash with EtOAc to obtain the title compound (19.82 g, 73% yield). MS (m/z): 323.0 (M+1).

reactant | 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate | 84 mmol, 28.6 g | FC(S(=O)(=O)OC1=CC2=C(N=C(N=C2)SC)N=C1C)(F)F | C10H8F3N3O3S2
reactant | acetic acid | 169 mmol, 9.61 mL | C(C)(=O)O | C2H4O2
reactant | NaOCl | 506 mmol, 612 g | [O-]Cl.[Na+]
reactant | N-methylamine | 2.0 M | CN | CH5N
reactant | THF | 253 mmol, 126 mL | C1CCOC1 | C4H8O
solvent | dimethylformamide | 74 mL | CN(C=O)C | C3H7NO
product | 7-Methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate | 19.82 g, 73% yield | FC(S(=O)(=O)OC1=CC2=C(N=C(N=C2)NC)N=C1C)(F)F | C10H9F3N4O3S
